US09334278B2
To a stirred solution of tert-butyl 1-methyl-6,7-dihydro-1H-pyrazolo[4,3-b]pyridine-4(5H)-carboxylate (55 mg, 232 μmol) in CH2Cl2 (4 mL) was added TFA (740 mg, 500 μL, 6.49 mmol). After 18 h, the reaction mixture was concentrated in vacuo and the residue obtained purified by chromatography (40 g column, 50 m silica-gel from Analogix, 0 to 5% 9:1 methanol:ammonium hydroxide in CH2Cl2, 20 min) to give 1-methyl-4,5,6,7-tetrahydro-1H-pyrazolo[4,3-b]pyridine (22 mg, 69%). 1H NMR (CHLOROFORM-d) δ: 7.05 (s, 1H), 3.70 (s, 3H), 3.08-3.21 (m, 2H), 2.88 (br. s., 1H), 2.64 (t, J=6.4 Hz, 2H), 1.84-2.01 (m, 2H). MS (EI/CI) m/z: 138.2 [M+H]+.

reactant | tert-butyl 1-methyl-6,7-dihydro-1H-pyrazolo[4,3-b]pyridine-4(5H)-carboxylate | 232 μmol, 55 mg | CN1N=CC=2N(CCCC21)C(=O)OC(C)(C)C | C12H19N3O2
reactant | TFA | 6.49 mmol, 500 μL, 740 mg | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | CH2Cl2 | 4 mL | C(Cl)Cl | CH2Cl2
product | 1-methyl-4,5,6,7-tetrahydro-1H-pyrazolo[4,3-b]pyridine | 22 mg, 69% | CN1N=CC=2NCCCC21 | C7H11N3
